* MOSFET DC Characteristics Simulation with Temperature Analysis
.option temp=27 tnom=27
.option gmin=1e-15
.option reltol=1e-8
.option abstol=1e-12
.option chgtol=1e-15
.option method=gear
.option TEMP=27
.option TNOM=27
.option TEMPSCALE=1.0

* Include FreePDK45 model
.include '/home/duhaochen/pipeline_sky130_mos/benchmark-inputs/7820cec0fb08f41b4a7161d6e7603600/ngspice.lib'

* MOSFET device under test 
M1 drain_iv gate_iv source_iv bulk_iv __benchmark_selected_pmos L=1.525e-07 W=1.6775e-06

* MOSFET device under test for bias point analysis
M2 drain_bias gate_bias source_bias bulk_bias __benchmark_selected_pmos L=1.525e-07 W=1.6775e-06

* IV Characteristics Circuit
Vds_iv drain_iv 0 DC 0
Vgs_iv gate_iv 0 DC 0
Vs_iv source_iv 0 DC 0
Vb_iv bulk_iv 0 DC 0

* Bias Point Analysis Circuit
Vds_bias drain_bias 0 DC 0
Vgs_bias gate_bias 0 DC 0
Vs_bias source_bias 0 DC 0
Vb_bias bulk_bias 0 DC 0

* Control block
.control
set filetype=ascii
set wr_vecnames
set wr_singlescale
set wr_singleprecision
set wr_formatted

* Run DC analysis with temperature sweep
echo "Starting temperature sweep"

* Temperature -40°C
option temp=-40
echo "Running simulation at temperature: -40 °C"
dc Vds_iv 0 -1.2 -0.01 Vgs_iv 0 -1.2 -0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
* Write data in the order expected by data_reader: v(d) v(g) i(vds) i(vs) i(vb) i(vgs) kcl
wrdata ./iv_data_-40.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 0°C
option temp=0
echo "Running simulation at temperature: 0 °C"
dc Vds_iv 0 -1.2 -0.01 Vgs_iv 0 -1.2 -0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_0.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 25°C
option temp=25
echo "Running simulation at temperature: 25 °C"
dc Vds_iv 0 -1.2 -0.01 Vgs_iv 0 -1.2 -0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_25.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 50°C
option temp=50
echo "Running simulation at temperature: 50 °C"
dc Vds_iv 0 -1.2 -0.01 Vgs_iv 0 -1.2 -0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_50.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 100°C
option temp=100
echo "Running simulation at temperature: 100 °C"
dc Vds_iv 0 -1.2 -0.01 Vgs_iv 0 -1.2 -0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_100.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 150°C
option temp=150
echo "Running simulation at temperature: 150 °C"
dc Vds_iv 0 -1.2 -0.01 Vgs_iv 0 -1.2 -0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_150.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Bias Point Analysis Section
echo "Starting bias point analysis"

* Run bias point analysis at room temperature
option temp=27
echo "Running bias point analysis at 27°C"

* Initialize bias_point_data.txt with headers
echo "v(drain_bias) v(gate_bias) id_bias ig_bias is_bias ib_bias" > ./bias_point_data.txt

* Define bias points explicitly and process each one separately
* First bias point (0.0, 0.0)
alter Vds_bias = 0.0
alter Vgs_bias = 0.0
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Second bias point (0.0, 0.6)
alter Vds_bias = 0.0
alter Vgs_bias = -0.6
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Third bias point (0.0, 1.2)
alter Vds_bias = 0.0
alter Vgs_bias = -1.2
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Fourth bias point (0.6, 0.0)
alter Vds_bias = -0.6
alter Vgs_bias = 0.0
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Fifth bias point (0.6, 0.6)
alter Vds_bias = -0.6
alter Vgs_bias = -0.6
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Sixth bias point (0.6, 1.2)
alter Vds_bias = -0.6
alter Vgs_bias = -1.2
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Seventh bias point (1.2, 0.0)
alter Vds_bias = -1.2
alter Vgs_bias = 0.0
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Eighth bias point (1.2, 0.6)
alter Vds_bias = -1.2
alter Vgs_bias = -0.6
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Ninth bias point (1.2, 1.2)
alter Vds_bias = -1.2
alter Vgs_bias = -1.2
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

echo "DC analysis completed"
quit
.endc

.end
